Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / onion
 
Attending: ___.
 
Chief Complaint:
Facial Abscess
 
Major Surgical or Invasive Procedure:
Procedure: 
1) Extra-oral and intra-oral incision and drainage of R mid-face
lesion, internal buccal drain
2) Incisional Biopsy of R mid-face lesion.

 
History of Present Illness:
Pt is a ___ y/o F with PMHx of asthma who presents with R facial 
cellulitis / abscess that has failed to improve despite PO 
antibiotics in the outpatient setting. Pt reports that symptoms 
started after she popped a pimple on her R cheek on ___. She 
awoke the following morning with significant swelling and pain 
over the R cheek. She saw her PCP who started clindamycin. 
However, the following day, erythema and swelling had grown in 
size. She was given a dose of IV CTX and then continued on 
clindamycin. She was also seen by ophtho given proximity of her 
swelling to her eye. There was no evidence of orbital 
involvement. However, the following day, symptoms continued to 
progress. After seeing her PCP and being referred to outpt 
surgery clinic, she was sent to the ED for evaluation and 
management.
 
In the ED, she was seen by PRS then ENT and then ultimately 
OMFS. OMFS performed I&D via her oral cavity with wick 
placement. She was placed on IV unasyn. Given persistent 
symptoms, she was admitted to medicine for further IV abx and 
monitoring.

ED Course:
Initial VS: 99.9 91 ___ 99% RA Pain ___
Labs largely unremarkable.
Imaging: CT showing right cheek subcutaneous abscess (see report 
below).
Meds given:  
___ 13:00 IV Clindamycin 600 mg 
___ 13:00 PO Acetaminophen 1000 mg 
___ 19:27 IVF  NS 1 mL 
___ 21:11 IV Ampicillin-Sulbactam 3 g 
___ 21:29 IV Ketorolac 15 mg  
___ 03:08 IV Ampicillin-Sulbactam 3 g 
___ 03:14 IV Ketorolac 15 mg   
___ 11:15 IV Ampicillin-Sulbactam 3 g 
___ 12:25 IV Ketorolac 15 mg 
VS prior to transfer: 98.8 68 135/64 16 98% RA Pain ___

On arrival to the floor, the patient reports that, while her 
pain and swelling improved initially after I&D, the swelling 
feels like it has returned this morning. She denies any vision 
changes / eye pain, although she does report swelling extending 
to the inferior aspect of her eye. She denies any current 
headache. 

Of note, she does report 3 episodes of watery diarrhea.

ROS: As above. Denies headache, chest pain, heart palpitations, 
shortness of breath, cough, nausea, vomiting, constipation, 
urinary symptoms, muscle or joint pains. The remainder of the 
ROS was negative.
 
Past Medical History:
Positive PPD, s/p tx
Asthma

 
Social History:
___
Family History:
Brother with bladder cancer. Mother alive at ___, with HTN, OA, 
GERD. Father died at ___ of CVA. Reports that she has some aunts 
with breast cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS - 98.3PO 133 / 70 61 16 98 ra 
GEN - Alert, NAD
HEENT - 2cm x 2cm area of swelling on ___ R cheek with 
fluctuance noted; there is a small area of skin breakdown in the 
___ the area of swelling; swelling extends superiorly to 
the inferior aspect of the R eye; extraocular movements 
completely intact without any pain on eye movement; PERRL; poor 
dentition with wick noted on L upper gumline 
NECK - No cervical LAD
CV - RRR, no m/r/g
RESP - CTA B
ABD - S/NT/ND, BS present
EXT - Trace pitting of the ___ bilaterally; no calf tenderness
SKIN - Facial changes as above
NEURO - ___ strength in the BLEs
PSYCH - Calm, appropriate
 
Pertinent Results:
ADMISSION LABS:
___ 11:45AM BLOOD WBC-10.1* RBC-4.77 Hgb-13.8 Hct-41.3 
MCV-87 MCH-28.9 MCHC-33.4 RDW-12.9 RDWSD-40.4 Plt ___
___ 11:45AM BLOOD Neuts-81.4* Lymphs-12.5* Monos-5.3 
Eos-0.1* Baso-0.5 Im ___ AbsNeut-8.25* AbsLymp-1.27 
AbsMono-0.54 AbsEos-0.01* AbsBaso-0.05
___ 11:45AM BLOOD Glucose-101* UreaN-12 Creat-0.8 Na-137 
K-5.2* Cl-101 HCO3-23 AnGap-18

CT Sinus - IMPRESSION:  
Right cheek subcutaneous collection measuring up to 1.9 cm, 
concerning for abscess, with surrounding inflammatory changes 
which extend to the right mandible. There are multiple bilateral 
mandibular periapical lucencies, findings which may suggest 
dental origin.  No deep neck infection. 
 
Brief Hospital Course:
Ms. ___ is a ___ female with history significant for 
asthma, periodontal disease, and recent closed avulsion fracture 
of the anterior inferior iliac spine, who now presents with 
5-day history of right cheek pain, and was found to have a 
complex SSTI and abscess. 

She was treated with antibiotics, and serial aspirations and 
partial debridements, without significant improvement, and 
therefore, was taken to the OR on ___, where she underwent 
extra-oral and intra-oral incision and drainage and incisional 
biopsy of mid-face lesion. The intraoperative findings suggested 
infection and significant tissue necrosis, possibly indicating a 
neoplastic process, but this will not be clear until the 
pathology results are finalized.

She was discharged to home on oral linezolid to cover 
staph/strep and CoNS (sparse growth from aspirate). She has 
close follow-up with OMFS and Infectious Disease later this 
week.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 600 mg PO DAILY:PRN Pain - Mild 
2. Acetaminophen ___ mg PO DAILY:PRN Pain - Mild 
3. Clindamycin 450 mg PO Q6H 
4. Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB 
5. Fluticasone Propionate 110mcg 2 PUFF IH BID 

 
Discharge Medications:
1.  Linezolid ___ mg PO Q12H 
RX *linezolid ___ mg 1 tablet(s) by mouth twice a day Disp #*28 
Tablet Refills:*0 
2.  Ibuprofen 600 mg PO DAILY:PRN Pain - Mild  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Facial Cellulitis / Abscess

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with an abscess in your right 
cheek with failed to improved with oral antibiotics. You were 
treated with IV antibiotics, and you underwent drainage of the 
abscess by the oral surgeons. Please take all your medications 
as prescribed and keep the appointments that we have scheduled 
for you.
 
Followup Instructions:
___